US08008506B2
(R)-N-(2-chloro-5-(oxiran-2-yl)phenyl)methanesulfonamide
(R)-N-(2-chloro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide (2.2308 g) was dissolved in dehydrated THF (40 mL), and a 1 mol/L TBAF-THF solution (10 mL; manufactured by Sigma-Aldrich Co.) was added thereto. The mixture was purged with nitrogen, and then was stirred for one hour at room temperature. The reaction solution was poured into brine, and the mixture was extracted with once with ethyl acetate. The organic layer was washed once with water, and then was dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate 71:29→50:50), and thus the title compound (0.564 g) was obtained.

reactant | (R)-N-(2-chloro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide | 2.2308 g | ClC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C15H25ClINO3SSi
reactant | TBAF THF | 1 mol/L, 10 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-N-(2-chloro-5-(oxiran-2-yl)phenyl)methanesulfonamide | 0.564 g | ClC1=C(C=C(C=C1)[C@H]1OC1)NS(=O)(=O)C | C9H10ClNO3S
